US09422271B2
To a solution of 5-bromo-N-(2-hydroxyethyl)thiophene-2-sulfonamide (1.3 g, 4.54 mmol) in dry CH2Cl2 (40 mL) was added imidazole (0.371 g, 5.45 mmol, 1.2 eq). The reaction mixture was stirred at 0° C. for 5 min and tert-butylchlorodimethylsilane (0.82 g, 5.45 mmol, 1.2 eq) was added in one portion. The solution was stirred at 0° C. for another 1 h and allowed to warm to room temperature within 2 h. The reaction mixture was evaporated under reduced pressure and the resulting residue was dissolved in EtOAc. The EtOAc solution was washed with 1 N HCl, saturated NaHCO3, and brine, dried (Na2SO4) and filtered. The filtrate was concentrated by evaporation to afford 5-bromo-N-(2-(tert-butyldimethyl silyloxy)ethyl) thiophene-2-sulfonamide (600 mg, 55%). LC-MS (m/z)=400.0 [M+H]+.

reactant | 5-bromo-N-(2-hydroxyethyl)thiophene-2-sulfonamide | 4.54 mmol, 1.3 g | BrC1=CC=C(S1)S(=O)(=O)NCCO | C6H8BrNO3S2
reactant | imidazole | 5.45 mmol, 0.371 g, 1.2 eq | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 5.45 mmol, 0.82 g, 1.2 eq | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-(2-(tert-butyldimethyl silyloxy)ethyl) thiophene-2-sulfonamide | 600 mg, 55% | BrC1=CC=C(S1)S(=O)(=O)NCCO[Si](C)(C)C(C)(C)C | C12H22BrNO3S2Si
